US07943774B2
4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1)
At 0° C., a 2-molar solution of hydrogen chloride in diethyl ether is added dropwise to a solution of tert-butyl 4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-carboxylate (IV-1, 640 mg). The reaction mixture is stirred at 0° C. and then slowly warmed to room temperature. The mixture is stirred overnight, and the solvent and excess hydrogen chloride are then removed. This gives 4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (590 mg).

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-carboxylate | 640 mg | C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H28N2O2S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1 | InChI=1S/C16H20N2S.ClH/c1-2-4-13(5-3-1)6-7-15-12-19-16(18-15)14-8-10-17-11-9-14;/h1-5,12,14,17H,6-11H2;1H
